US05688807
4,7-dimethyltryptamine hydrochloride was prepared (0.94 g) as described for 5-methyl-7-bromotryptamine hydrochloride in Example 4, except using 2,5-dimethyl-phenylhydrazine hydrochloride (16.8 g) as starting material.

reactant | 5-methyl-7-bromotryptamine hydrochloride | Cl.CC1=CC(=C2NC=C(CCN)C2=C1)Br
reactant | 2,5-dimethyl-phenylhydrazine hydrochloride | 16.8 g | Cl.CC1=C(C=C(C=C1)C)NN
product | 4,7-dimethyltryptamine hydrochloride | Cl.CC=1C=CC(=C2NC=C(CCN)C12)C | InChI=1S/C12H16N2.ClH/c1-8-3-4-9(2)12-11(8)10(5-6-13)7-14-12;/h3-4,7,14H,5-6,13H2,1-2H3;1H
